US04196208
Preparation of O-[4-(hexadecylamino)benzoyl]malic acid
To a warm solution of N-carbobenzyloxy-4-(hexadecylamino)benzoyl chloride and 1.3 g. (1 eq) triethylamine in 100 ml. ether is treated with 2 g. (14.9 m moles) malic acid. An immediate precipitate forms, but the mixture is refluxed for one hour and filtered while hot. The solid is washed several times with hot ether, then the ether is evaporated to yield a white solid. The product is dissolved in tetrahydrofuran (100 ml.) and hydrogenated over 600 mg. 10% Pd(C) at 50 psi until hydrogen uptake stops. The catalyst is filtered, the solution is evaporated, and the residue is crystallized from acetic acid to yield the title compound as a tan, crystalline mass.

reactant | N-carbobenzyloxy-4-(hexadecylamino)benzoyl chloride | C(=O)(OCC1=CC=CC=C1)N(C1=CC=C(C(=O)Cl)C=C1)CCCCCCCCCCCCCCCC | C31H44ClNO3
reactant | triethylamine | 1 eq | C(C)N(CC)CC | C6H15N
reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | O-[4-(hexadecylamino)benzoyl]malic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC(C(O)CC(=O)O)=O)C=C1 | C27H43NO6
